Name:  ___.                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
chest discomfort
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ y/o obese, htn, lupus (inactive) p/w 20min sharp nonradiating 
CP after picking up her niece (very small). Pain the 
transitioned to dull substernal ache which lasted for several 
hours and resolved w/ SL nitro in emergency dept. Pt denies SOB, 
diaphoresis, N/V with episode. Pt states that she has 
periodically had the stabbing cp before but never with the chest 
heaviness after. Has not had the stabbing cp for several months 
and not associated with exercise or eating or any other activity 
she can identify. She denies orthopnea, pnd, angina. She states 
that she is able to walk up 3 flights of stairs easily and 
without chest pain or discomfort.
.
Pt does endorse some L scapular pain several weeks ago which has 
not resolved. And has dizzyness which is no worse than usual and 
improves c meclizine. Pt states that she has been less good 
about diabetic diet recently but ___ this am was 158. Endorses 
occasional HAs (migraines) which resolve c fiorinal.
.
In the ED, initial vs were: 130/60s ___ 100% on RA. 
 
Past Medical History:
diabetes
?history of collagen vascular disease- ?lupus last flare ___ yrs 
ago
vertigo
headache
hypertension
hyperlipidemia
joint pain 
 
Social History:
___
Family History:
per OMR: -mother: DM, HTN, PD
-father: DM, HTN, ESRD on HD 
 
Physical Exam:
Vitals: T:97.6 BP:128/70 P:80 R:30 O2:200%RA
General: Alert, oriented, no acute distress, obese
HEENT: Sclera anicteric, MMM, oropharynx clear
Neck: supple, JVP not elevated, no LAD
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi
CV: Regular rate and rhythm, normal S1 + S2
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema
Neuro: moving all ext, CN2->12 grossly intact, strength in UE 
and ___ intact b/l 
 
Pertinent Results:
___ 04:30PM   WBC-8.3# RBC-4.25 HGB-10.5* HCT-32.2* MCV-76* 
MCH-24.6* MCHC-32.5 RDW-12.8
___ 04:30PM   NEUTS-72.7* ___ MONOS-3.2 EOS-1.8 
BASOS-0.4
___ 04:30PM   GLUCOSE-159* UREA N-10 CREAT-0.5 SODIUM-137 
POTASSIUM-4.0 CHLORIDE-102 TOTAL CO2-28 ANION GAP-11
___ 04:30PM   ALT(SGPT)-19 AST(SGOT)-19 LD(LDH)-159 
CK(CPK)-102 ALK PHOS-78 TOT BILI-0.2
___ 04:30PM   cTropnT-<0.01
___ 04:30PM   CK-MB-2
___ 06:50AM BLOOD Triglyc-148 HDL-35 CHOL/HD-6.5 
LDLcalc-163*
___ 06:50AM BLOOD Mg-1.8 Cholest-228*

hemoglobin A1c pending at the time of discharge

cxr: IMPRESSION: A PA and lateral chest compared to ___:
Borderline cardiomegaly has developed, and there is pulmonary 
vascular
engorgement but no edema or pleural effusion, so that cardiac 
decompensation
if present is very mild. There is no evidence of central lymph 
node
enlargement.

 
Brief Hospital Course:
# CP: On arrival to floor was chest pain free and remained cp 
free throughout admission. Somewhat concerning for ACS given DM, 
obesity, hyperlipidemia, however chronicity of chest discomfort 
(years) and high exercise tolerance are reassuring. Other 
possible etiologies include anxiety, musculoskeletal, gerd, 
esophageal spasm. no ekg findings to suggest pericarditis. No 
sinus tach or desaturation to suggest PE. Pt ruled out for MI 
and monitored on telemetry without event. She cannot get ETT ___ 
vertigo on treadmill. It was felt that she was not high risk and 
did not need inpt stress test, an outpatient stress echo could 
be considered. Pt's aspirin was continued. She has not been 
taking statin ___ concerns about LFTs however, we checked them 
and they were normal so she says she will now take statin at 
home. Cholesterol panel was checked and LDL was in 160s (above 
goal).
.
# Vertigo: Has recieved extensive w/u as outpt. Continued 
meclizine, which provides some relief.
.
# Anemia: at baseline. In past thought to be iron deficiency 
from menorrhagia. pt does not take iron as outpt ___ nausea c PO 
iron. Pt recieved IV ferric gluconate x2 doses while admitted. 
.
# migraines: continued prn fiorinal (did not require)
.
# joint pain: prn tylenol, no joint pain currently.
.
# HTN: continued lisinopril
.
# DM: continued metformin and glyburide, added HISS while in 
hospital.
A1C PENDING AT THE TIME OF DISCHARGE
 
Medications on Admission:
iorinal ___ q6h prn
glyburide 10 BID
lisinopril 20 daily (prescribed 40 but has had low BPs recently)
meclizine 25 q6h prn
metformin 1000 PO BID
simvastatin 80 (not taking, concern for elev LFTs)
asa 81 daily
iron (not taking, makes her feel sick) 
 
Discharge Medications:
1. Butalbital-Aspirin-Caffeine 50-325-40 mg Capsule Sig: ___ 
Caps PO Q6H (every 6 hours) as needed for migrain.  
2. Glyburide 5 mg Tablet Sig: Two (2) Tablet PO twice a day.  
3. Lisinopril 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
4. Meclizine 12.5 mg Tablet Sig: Two (2) Tablet PO Q6H (every 6 
hours) as needed for vertigo.  
5. Simvastatin 40 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
6. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
7. Metformin 500 mg Tablet Sig: Two (2) Tablet PO BID (2 times a 
day).  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
primary: atypical chest pain

 
Discharge Condition:
Mental Status: Clear and coherent
Level of Consciousness: Alert and interactive
Activity Status: Ambulatory - Independent

 
Discharge Instructions:
You were admitted because of chest pain which has now resolved. 
We checked to see if you were having a heart attack, but you 
were not. Your primary doctor may ask you to get a stress test 
as an outpatient. We also gave you some iron through your IV 
since you have not been taking the iron at home. We also checked 
your hemoglobin a1c and your cholesterol panel, both of which 
are still pending. 

When you go home please continue all of your home medicines. 
 
Followup Instructions:
___